US05747490
A solution of 4-amino-2-chloro-6,7-dimethoxyquinazoline (94.4 mg, 0.3939 mmol) and (R)-4-[(1,1-dimethylethoxy)carbonyl]-3-(1,1-dimethylethylamino) carbonyl piperazine (see Askin, D. et al., Tetrahedron Letters 1994, 35, 673-676) (112.4 mg, 0.3939 mol) in 2-propanol (1 mL) was heated at 90° C. (24 h). The solvent was removed in vacuo and the residue subjected to PCTLC (SiO2, 2 mm, 0-10% MeOH/CH2Cl2) which afforded ((R)-1-(4-Amino-6,7-dimethoxy-2-quinazolinyl)-4-[(1,1-dimethylethoxy)carbonyl]-3-(1,1-dimethylethylamino)carbonyl piperazine.

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 0.3939 mmol, 94.4 mg | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | (R)-4-[(1,1-dimethylethoxy)carbonyl]-3-(1,1-dimethylethylamino) carbonyl piperazine | 0.3939 mol, 112.4 mg | CC(C)(OC(=O)N1[C@H](CNCC1)C(=O)NC(C)(C)C)C | C14H27N3O3
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
product | (R)-1-(4-Amino-6,7-dimethoxy-2-quinazolinyl)-4-[(1,1-dimethylethoxy)carbonyl]-3-(1,1-dimethylethylamino)carbonyl piperazine | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)NC(C)(C)C | C24H36N6O5
